US05618827
Methyl 2-[(chlorocarbonyl)amino]benzoate
A solution of methyl anthranilate (6.0 g) in dichloromethane (50 ml) was added dropwise over 15 min to a 0° solution of phosgene (20% in toluene, 100 ml) in dichloromethane (50 ml) under a nitrogen atmosphere. After addition the resulting opaque solution was stirred at room temperature for 5 h before concentrating to dryness to give the title compound as a white solid (8.0 g), m.p. 80°-82°.

reactant | methyl anthranilate | 6.0 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | phosgene | 100 ml | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Methyl 2-[(chlorocarbonyl)amino]benzoate | 8.0 g | ClC(=O)NC1=C(C(=O)OC)C=CC=C1 | C9H8ClNO3
